US08809372B2
To a stirred solution of 1-(5-(4-fluorophenyl)-1,2,4-oxadiazol-3-yl)ethanol (0.34 g, 1.92 mmol) in DCM (40 mL) was added Dess-Martin periodinane (2.7 g, 6.5 mmol) at room temperature and the mixture stirred for 3 h. The reaction mixture was filtered and washed with DCM (15 mL). To the filtrate was added NaHCO3 solution (10 mL) and DCM (30 mL). The organic layer was separated, washed with water (20 mL) followed by brine solution (20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to get crude compound. The crude compound was purified by silica gel column chromatography (100-200 mesh; using 10% methanol in DCM) to obtain 1-(5-(4-fluorophenyl)-1,2,4-oxadiazol-3-yl)ethanone as off-white solid (0.25 g, 72% yield). 1H NMR (400 MHz, CDCl3): δ 2.76 (s, 3H), 7.23 (t, 2H), 7.23 (dd, 2H), LC-MS m/z calculated for [M+H]+ 207.17, found 206.87.

reactant | 1-(5-(4-fluorophenyl)-1,2,4-oxadiazol-3-yl)ethanol | 1.92 mmol, 0.34 g | FC1=CC=C(C=C1)C1=NC(=NO1)C(C)O | C10H9FN2O2
reactant | Dess-Martin periodinane | 6.5 mmol, 2.7 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-(4-fluorophenyl)-1,2,4-oxadiazol-3-yl)ethanone | 0.25 g, 72% yield | FC1=CC=C(C=C1)C1=NC(=NO1)C(C)=O | C10H7FN2O2
